US07148226B2
2-{4-[2-(2-Cyclopentyl-4-methoxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-2-methyl-propionitrile
A magnetically stirring solution of 2-{4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile (− rotation, 0.15 g, 0.40 mmol) was cooled to 0° C. DBU (0.18 mL, 1.21 mmol) was added followed by Mel (0.076 mL, 1.21 mmol) and reaction was stirred at 0° C. for 1 hour. The reaction mixture was partitioned between 1N HCl and EtOAc. The layers of the resulting reaction mixture were separated and the organic layer was washed with brine (1×10 mL), then dried over Na2SO4, filtered and concentrated in vacuo. The crude residue was purified by flash column chromatography (20% EtOAc in Hexanes) to give the desired product as a yellow oil (0.062 g, 41%). 1H NMR (400 MHz, CDCl3): δ 1.18 (d, J=6.5 Hz, 3H), 1.40 (d, J=6.5 Hz, 3H), 1.50–1.78 (m, 8 H), 1.94–2.05 (m, 2 H), 2.18 (s, 3H), 2.64–2.73 (m, 3 H), 3.75 (s, 2 H), 5.17 (s, 1 H), 6.89–6.97 (m, 2 H), 7.35–7.40 (m, 1 H). MS (ESI): 386 (M+H).

reactant | 2-{4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile | 0.40 mmol, 0.15 g | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C22H26FNO3
reactant | DBU | 1.21 mmol, 0.18 mL | C1CCC2=NCCCN2CC1 | C9H16N2
product | 2-{4-[2-(2-Cyclopentyl-4-methoxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-2-methyl-propionitrile | 0.062 g, 41% | C1(CCCC1)C1(OC(C=C(C1)OC)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C23H28FNO3
